US06562846B2
4-[3-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-propoxy]-benzoic acid:
(Scheme 2 (I)) To a solution of 4-[3-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-propoxy]-benzoic acid ethyl ester (0.80 g, 1.8 mmol) in EtOH (20 mL) was added NaOH (10 N, 4.0 mL, 40.0 mmol). The resulting mixture was stirred at rt for 3 hours, diluted with water, acidified to pH˜1 using 1N HCl, extracted by CH2Cl2, and then was dried over MgSO4. After filtration and concentration in vacuo, the residue was purified by flash chromatography (SiO2: MeOH/CH2Cl2). This compound was obtained as a white dry foam in HCl salt form (0.80 g, 1.8 mmol, 99% yield): 1H NMR (DMSO): δ1.93 (m, 2H), 2.67 (s, 3H), 3.97 (t, 2H), 4.13 (t, 2H), 6.85 (d, J=8.82 mHz,2H), 7.33 (s, 5H), 7.43 (m, 2H), 7.55 (m, 3H), 7.86 (d, J=8.82 mHz, 2H), 12.64 (b, 1H).

reactant | 4-[3-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-propoxy]-benzoic acid ethyl ester | 1.8 mmol, 0.80 g | C(C)OC(C1=CC=C(C=C1)OCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C28H28N2O3
reactant | NaOH | 40.0 mmol, 10 N, 4.0 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | water | O | H2O
product | 4-[3-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-propoxy]-benzoic acid | 99% yield | CC=1N(C(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCOC1=CC=C(C(=O)O)C=C1 | C26H24N2O3
